US07691877B2
(2-Amino-6-bromo-3-nitro-pyridin-4-yl)-benzyl-carbamic acid ethyl ester
Benzyl-(2,6-dibromo-3-nitro-pyridin-4-yl)-carbamic acid ethyl ester (7.50 g) was dissolved in 2-methyl-tetrahydrofuran (15 ml) and the solution placed in a sealable vessel. Concentrated aqueous ammonia solution (15 ml) was added and the vial was then sealed and the bi-phasic mixture left to stir vigorously at room temperature for 36 hours. The reaction mixture was then transferred to a separating funnel and ethyl acetate (120 ml) and water (120 ml) were added. The phases were separated, and then the organics washed with brine (100 ml), dried (MgSO4), and evaporated to a yellow oil. Upon standing, a yellow solid crystallised. This was collected by filtration and washed with pentane, providing the title compound (6.64 g) as a yellow solid.

reactant | Benzyl-(2,6-dibromo-3-nitro-pyridin-4-yl)-carbamic acid ethyl ester | 7.50 g | C(C)OC(N(C1=C(C(=NC(=C1)Br)Br)[N+](=O)[O-])CC1=CC=CC=C1)=O | C15H13Br2N3O4
reactant | ammonia | 15 ml | N | H3N
reactant | ethyl acetate | 120 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 120 ml | O | H2O
solvent | 2-methyl-tetrahydrofuran | 15 ml | CC1OCCC1 | C5H10O
product | (2-Amino-6-bromo-3-nitro-pyridin-4-yl)-benzyl-carbamic acid ethyl ester | 6.64 g | C(C)OC(N(CC1=CC=CC=C1)C1=C(C(=NC(=C1)Br)N)[N+](=O)[O-])=O | C15H15BrN4O4
